*---------------------------------------------------------------					
*  *** Spice model ***					
*					
*  Copyright (C) Panasonic Industry Corporation					
*					
*  Conductive Polymer Aluminum Electrolytic Capacitor (SP-Cap)					
*					
*  Parts No. EEFSX0G331XE					
*---------------------------------------------------------------					
*  Capacitance : 330 uF   Rated Voltage : 4 V					
*  ESR Max. : 6 mohm @100kHz					
*					
*  1  o---||---o  2					
*					
*  Conditions : Temperature = 20 degC   DC Bias = 0 V					
*					
*---------------------------------------------------------------					
.SUBCKT	EEFSX0G331XE	1	2		
R1	1	3	2.20E-03		
R2	3	4	4.39E-02		
R3	4	5	9.02E+00		
R4	5	6	1.50E+02		
R5	6	7	8.82E+02		
C1	3	8	2.46E-04		
C2	4	8	6.20E-05		
C3	5	8	3.42E-06		
C4	6	8	2.15E-06		
C5	7	8	1.86E-06		
R6	8	9	1.28E-03		
R7	9	10	6.01E-02		
R8	10	11	6.75E-01		
R9	11	12	4.31E+00		
R10	12	13	4.52E+01		
L1	9	2	1.03E-09		
L2	10	2	2.87E-09		
L3	11	2	5.97E-09		
L4	12	2	5.79E-09		
L5	13	2	5.62E-09		
.ENDS					
*$					
